US07338960B2
{[2-Methyl-4-({1-[4′-(trifluoromethyl)-3-biphenylyl]ethyl}thio)phenyl]oxy}acetic acid
A mixture of ethyl {[2-methyl-4-({1-[4′-(trifluoromethyl)-3-biphenylyl]ethyl}thio)phenyl]oxy}acetate (235 mg, 0.50 mmol) in dioxane (6 mL) was treated with aqueous NaOH (0.5N, 2.0 mL, 1.00 mmol) and the mixture heated at reflux for 1 hour. The resulting mixture was then cooled and treated with Dowex 50WX2 (pre-washed with dioxan), filtered and washed with more dioxan and reduced to give the title compound as a colourless gum (220 mg).

reactant | ethyl {[2-methyl-4-({1-[4′-(trifluoromethyl)-3-biphenylyl]ethyl}thio)phenyl]oxy}acetate | 0.50 mmol, 235 mg | CC1=C(C=CC(=C1)SC(C)C=1C=C(C=CC1)C1=CC=C(C=C1)C(F)(F)F)OCC(=O)OCC | C26H25F3O3S
reactant | NaOH | 1.00 mmol, 0.5N, 2.0 mL | [OH-].[Na+]
solvent | dioxane | 6 mL | O1CCOCC1 | C4H8O2
product | {[2-Methyl-4-({1-[4′-(trifluoromethyl)-3-biphenylyl]ethyl}thio)phenyl]oxy}acetic acid | 220 mg | CC1=C(C=CC(=C1)SC(C)C=1C=C(C=CC1)C1=CC=C(C=C1)C(F)(F)F)OCC(=O)O | C24H21F3O3S
